US04652563
A mixture of 6-[4-(3-benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (5.5 g; 0.015 mol), 1-[2-allyl-4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2,3-epoxypropane (8.65 g; 0.03 mol) and n-propanol (100 ml) was stirred under reflux for 24 hours. The mixture was cooled, filtered and the filtrate was evaporated under reduced pressure and chromatographed on a silica gel column, using ethyl acetate as eluant, to give as a glass 6-[4-[3-[2-hydroxy-3-[2-allyl-4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (4.4 g).

reactant | 6-[4-(3-benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.015 mol, 5.5 g | C(C1=CC=CC=C1)NCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C21H24N4O2
reactant | 1-[2-allyl-4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2,3-epoxypropane | 0.03 mol, 8.65 g | C(C=C)C1=C(OCC2CO2)C=CC(=C1)CCOCC1CC1 | C18H24O3
solvent | n-propanol | 100 ml | C(CC)O | C3H8O
product | 6-[4-[3-[2-hydroxy-3-[2-allyl-4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 4.4 g | OC(CNCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C(OC1=C(C=C(C=C1)CCOCC1CC1)CC=C)CC1=CC=CC=C1 | C39H48N4O5
